US04792628
1.77 Grams of 1-amino-7-hydroxy-4,6-dimethylindane and 50 ml of ethanol solution containing 2.57 g of 3,5-di-tert-butyl-4-hydroxybenzaldehyde were stirred together at a room temperature for 2 hours. Then sodium borohydride solution was added gradually by small portions to the reaction mixture under an ice-cooling condition. The reaction mixture was further stirred at a room temperature for 2 hours, then was acidified by adding hydrochloric acid. Then the reaction mixture was concentrated to dryness by evaporating the solvent under a reduced pressure. To the residue obtained was added 100 ml of water, and further added an aqueous solution of sodium acetate to adjust the pH of the solution to about pH=8, then extracted with 100 ml of ethyl acetate. The extract was washed with water, dried with anhydrous magnesium sulfate, concentrated to dryness by evaporating the solvent under a reduced pressure. The residue obtained was dissolved in 50 ml of ethanol, and the pH of the solution was adjusted by adding ethanol saturated with hydrogen chloride gas to about pH=3, then the solution was concentrated to dryness by evaporating the solvent under a reduced pressure. The residue obtained was recrystallized from ether-n-hexane to obtain 0.77 g of 1-(3,5-di-tert-butyl-4-hydroxybenzyl)amino-4,6-dimethyl-7-hydroxyindane in the form of colorless needle-like crystals. Melting point: 154°-155° C.

reactant | 1-amino-7-hydroxy-4,6-dimethylindane | NC1CCC2=C(C=C(C(=C12)O)C)C | C11H15NO
reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | 2.57 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 1-(3,5-di-tert-butyl-4-hydroxybenzyl)amino-4,6-dimethyl-7-hydroxyindane | 0.77 g | C(C)(C)(C)C=1C=C(CNC2CCC3=C(C=C(C(=C23)O)C)C)C=C(C1O)C(C)(C)C | C26H37NO2
